US07501425B1
1-Isopropyl-7-[4-(pyrazol-1-yl)phenylamino]pyrimido[4,5-d]pyrimidin-2(1H)-one
Prepared from 150 mg (0.32 mmol) of 1-isopropyl-7-[4-(pyrazol-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one, trifluoroacetic acid and 218 mg (1.94 mmol) of potassium tert-butoxide in 10 mL of tetrahydrofuran. The reaction mixture is stirred for 48 hours, 50 mg (0.44 mmol) of potassium tert-butoxide is added, and the reaction is continued for 72 hours. After the workup, the semi-solid is triturated in diethyl ether, and the powder is collected and dried to give 86 mg (73%) of the title compound: mp 243-247° C. (dec).

reactant | 1-isopropyl-7-[4-(pyrazol-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.32 mmol, 150 mg | C(C)(C)N1C(NCC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2N=CC=C2)=O | C18H19N7O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium tert-butoxide | 1.94 mmol, 218 mg | CC(C)([O-])C.[K+]
reactant | potassium tert-butoxide | 0.44 mmol, 50 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-Isopropyl-7-[4-(pyrazol-1-yl)phenylamino]pyrimido[4,5-d]pyrimidin-2(1H)-one | 86 mg, 73% | C(C)(C)N1C(N=CC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2N=CC=C2)=O | C18H17N7O
